US05273986
A solution composed of 0.44 g of 2-(ethoxycarbonyl)benzenepropanoic acid and 25 ml of methylene chloride was added to a solution composed of 0.51 g of (E)-3-[2-[4-(cyclobutyl)-2-thiazolyl]ethenyl]benzeneamine, 0.4 g of N-ethyl-N-(dimethylaminopropyl)carbodiimide, 1.0 g of 4-dimethylaminopyridine and 25 ml of methylene chloride at 0° C. After 16 hr., the reaction mixture was washed with 30 ml of water, dried (MgSO4) and the solvents removed by rotary evaporation. The residual materials were recrystallized from ethyl ether to yield 0.87 g of (E)-2-[3-[3-[2-[4-(cyclobutyl)-2-thiazolyl]ethenyl]phenylamino]-3-oxopropyl]benzoic acid ethyl ester; m.p.110°-111° C.

reactant | 2-(ethoxycarbonyl)benzenepropanoic acid | 0.44 g | C(C)OC(=O)C1=C(C=CC=C1)CCC(=O)O | C12H14O4
reactant | (E)-3-[2-[4-(cyclobutyl)-2-thiazolyl]ethenyl]benzeneamine | 0.51 g | C1(CCC1)C=1N=C(SC1)/C=C/C=1C=C(C=CC1)N | C15H16N2S
catalyst | 4-dimethylaminopyridine | 1.0 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | methylene chloride | 25 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 25 ml | C(Cl)Cl | CH2Cl2
product | (E)-2-[3-[3-[2-[4-(cyclobutyl)-2-thiazolyl]ethenyl]phenylamino]-3-oxopropyl]benzoic acid ethyl ester | 0.87 g | C(C)OC(C1=C(C=CC=C1)CCC(=O)NC1=CC(=CC=C1)\C=C\C=1SC=C(N1)C1CCC1)=O | C27H28N2O3S
